US08012956B2
To a flask containing methyl 4-cyano-2-fluorobenzoate (1.61 g, 9.0 mmol) was added fuming nitric acid (15 mL) followed by concentrated sulfuric acid (4 mL). The mixture was heated to 45° C. for 15 h before cooling to room temperature. The solution was then poured into ice water and the resulting mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, filtered, and concentrated to provide methyl 4-cyano-2-fluoro-5-nitrobenzoate (859 mg, 3.83 mmol, 43% yield).

reactant | methyl 4-cyano-2-fluorobenzoate | 9.0 mmol, 1.61 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)F | C9H6FNO2
reactant | nitric acid | 15 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
product | methyl 4-cyano-2-fluoro-5-nitrobenzoate | 3.83 mmol, 859 mg, 43% yield | C(#N)C1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])F | C9H5FN2O4
